US07244730B2
Step 2 is a step of conversion of hydroxyl to a trifluoromethanesulfonate (triflate). Compound (B3-c) may be obtained by reaction with trifluoromethanesulfonic anhydride in a solvent such as dichloromethane in the presence of a base such as triethylamine or pyridine, or by reaction with compound (B3-e) in the presence of triethylamine or dimethylaminopyridine.

reactant | trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
